2142-06-15 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 85 year-old female with CHF (right sided), pulmonary
   HTN, atrial fib, rheumatic heart disease s/p mechanical MVR, severe TR,
   HTN, who presents with AMS and question sepsis.
   24 Hour Events:
 EKG - At [**2142-6-14**] 06:00 PM
   CT within consolidation, continued abx
   ECHO with TR, pHTN and 55% EF
   started bb
   hct stable
   called thrice for ID approval on zosyn without callback, notified
   pharm; dose given
   RR in 30s, clear lungs, CXR ordered, suctioned trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-6-15**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2142-6-15**] 03:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-15**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 91 (87 - 116) bpm
   BP: 134/73(87) {117/56(72) - 154/83(99)} mmHg
   RR: 31 (22 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  5,134 mL
                                                                    531 mL
   PO:
             TF:
                                                                    210 mL
                                                                    212 mL
   IVF:
                                                                  1,300 mL
                                                                    289 mL
   Blood products:
                                                                    304 mL
   Total out:
                                                                  1,042 mL
                                                                    315 mL
   Urine:
                                                                    792 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,092 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.31/52/86/23/0
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   265 K/uL
   9.2 g/dL
   161 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.9 mEq/L
   38 mg/dL
   114 mEq/L
   145 mEq/L
   28.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2142-6-14**]  04:39 AM
                             [**2142-6-14**]  06:30 AM
                             [**2142-6-14**]  02:28 PM
                             [**2142-6-14**]  06:15 PM
                             [**2142-6-15**]  03:16 AM
                             [**2142-6-15**]  06:32 AM
   WBC
   6.2
   9.6
   10.1
   Hct
   22.6
   28.8
   29.3
   28.8
   Plt
   [**Telephone/Fax (3) **]
   Cr
   1.0
   1.0
   1.0
   TCO2
   29
   27
   Glucose
   121
   121
   161
   Other labs: PT / PTT / INR:35.6/35.4/3.8, ALT / AST:71/76, Alk Phos / T
   Bili:378/0.7, Differential-Neuts:83.3 %, Lymph:9.5 %, Mono:5.1 %,
   Eos:1.6 %, Lactic Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   85 year-old female with CHF (right sided), pulmonary HTN, atrial fib,
   rheumatic heart disease s/p mechanical MVR, severe TR, HTN, who
   presents with AMS and question sepsis.
   # Sepsis:  Meets SIRS criteria with fever and tachycardia, though
   patient has chronic a.fib at baseline, and pneumonia as possible
   infectious source.  Other possible sources of infection in her include
   UTI (culture pending), abdominal process given recent surgery, and
   meningitis, though exam not consistent clinically with this condition.
   Will treat empirically for primary lung source but have low threshold
   for abdominal imaging given risk factors, elevated LFTs.  Was on
   bactrim at [**Hospital1 246**] for unclear indication.
   - cont vanc/zosyn
   - hold bactrim
   - IVF boluses to maintain MAP>65, UOP>30 cc/hr
   - no central venous line for now but follow BP closely
   - Follow-up blood, urine and sputum cultures
   - sputum cx
   - Trend WBC count and fever curve
   - low threshold for abdominal CT
   - will not correct INR for now or perform LP
   - low-dose vitamin K to bring INR < 3 so PICC can be placed.
   # Hypoxic Respiratory Failure:  Appears tachypnic currently with
   suctioning of tan secretions from ETT in a.m. of [**2142-6-15**].  Follow-up
   CXR shows volume overload.
   - lasix for diuresis
   - I/O goal of -1L
   - weane O2 on  trach collar
   # Altered mental status:  Unclear what patient's baseline is but per
   report she is alert and oriented x 3 normally.  AMS likely secondary to
   infectious process/toxic-metabolic.  Would also consider other
   metabolic causes of AMS.  Head CT negative and defering LP as described
   above.  TSH and B12 wnl, RPR neg
   - infectious disease management as above
   # Transaminitis:  No prior history of elevated LFTs or alcohol abuse.
   Elevated LFTs likely occured in setting of hypotension and shock liver,
   though would consider other etiologies such as toxic ingestion and
   infection if enzymes do not trend down.
   - trend LFTs
   - consider serum/urine tox if not improving
   # S/p laparotomy:  Stable, no abdominal pain, no active issues,
   discussed with surgery.
   # Atrial fibrillation:  Previously on metoprolol but started on digoxin
   during [**Month (only) 230**]-[**2142-5-25**] hospitalization after cardiology consultation.
   Digoxin level normal at 1.7.  Ventricular rate in high 90s.  Restarted
   metoprolol on [**2142-6-14**].
   - cont digoxin, metoprolol
   - holding warfarin for now in setting of INR > 3.0, antibiotics, but
   will need for stroke risk and MVR
   - daily coags
   # Mitral valve replacement:  Mechanical valve per report and history of
   rheumatic heart disease.
   - daily INR
   - restart warfarin once INR<3
   # FEN: IVF prn, replete electrolytes, regular diet
   # Prophylaxis: warfarin once INR<3
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient, family. [**Doctor First Name **] is son [**Telephone/Fax (1) 6114**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-6-14**] 01:30 PM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-6-14**] 04:41 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-06-16 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 85 year-old female with CHF (right sided), pulmonary
   HTN, atrial fib, rheumatic heart disease s/p mechanical MVR, severe TR,
   HTN, who presents with AMS and question sepsis.
   24 Hour Events:
 PICC LINE - START [**2142-6-15**] 03:00 PM
 INVASIVE VENTILATION - START [**2142-6-15**] 04:20 PM
 SPUTUM CULTURE - At [**2142-6-16**] 12:30 AM
   - IR PICC placed
   - Increased WOB post-IR. Given additional 20 mg iv lasix. CXR did not
   demonstrate inc pulm edema.  ABG 7.27/58/87. Placed back on vent.
   Hypotension likely in setting of tender starling curve, extra lasix,
   and vent hemodynamics.  Received IVF withtout significant improvement.
   As pt was asleep with good UOP (>30 cc/hr), held further IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2142-6-15**] 03:08 AM
   Ceftriaxone - [**2142-6-15**] 01:00 PM
   Vancomycin - [**2142-6-16**] 12:00 AM
   Ceftazidime - [**2142-6-16**] 01:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2142-6-15**] 04:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-16**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (65 - 106) bpm
   BP: 107/53(64) {80/38(50) - 151/72(87)} mmHg
   RR: 23 (11 - 40) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  2,513 mL
                                                                  1,293 mL
   PO:
             TF:
                                                                    665 mL
                                                                    243 mL
   IVF:
                                                                  1,589 mL
                                                                  1,050 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    560 mL
   Urine:
                                                                  1,425 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,088 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 163
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.27/58/86.[**Numeric Identifier **]/25/-1
   Ve: 5.1 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   204 K/uL
   8.0 g/dL
   130 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   37 mg/dL
   117 mEq/L
   148 mEq/L
   25.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2142-6-14**]  04:39 AM
                             [**2142-6-14**]  06:30 AM
                             [**2142-6-14**]  02:28 PM
                             [**2142-6-14**]  06:15 PM
                             [**2142-6-15**]  03:16 AM
                             [**2142-6-15**]  06:32 AM
                             [**2142-6-15**]  04:21 PM
                             [**2142-6-15**]  07:54 PM
                             [**2142-6-16**]  03:00 AM
   WBC
   6.2
   9.6
   10.1
   7.5
   Hct
   22.6
   28.8
   29.3
   28.8
   25.0
   Plt
   [**Telephone/Fax (3) 6134**]04
   Cr
   1.0
   1.0
   1.0
   0.9
   0.9
   TCO2
   29
   27
   28
   Glucose
   121
   121
   161
   122
   130
   Other labs: PT / PTT / INR:23.1/32.4/2.2, ALT / AST:46/44, Alk Phos / T
   Bili:378/0.4, Differential-Neuts:86.6 %, Band:0.0 %, Lymph:6.4 %,
   Mono:5.7 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL,
   LDH:222 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   85 year-old female with CHF (right sided), pulmonary HTN, atrial fib,
   rheumatic heart disease s/p mechanical MVR, severe TR, HTN, who
   presents with AMS and question sepsis.
   # Sepsis:  Meets SIRS criteria with fever and tachycardia, though
   patient has chronic a.fib at baseline, and pneumonia as possible
   infectious source.  Other possible sources of infection in her include
   UTI (culture pending), abdominal process given recent surgery, and
   meningitis, though exam not consistent clinically with this condition.
   Will treat empirically for primary lung source but have low threshold
   for abdominal imaging given risk factors, elevated LFTs.  Was on
   bactrim at [**Hospital1 246**] for unclear indication.
   - cont vanc/zosyn
   - hold bactrim
   - IVF boluses to maintain MAP>65, UOP>30 cc/hr
   - no central venous line for now but follow BP closely
   - Follow-up blood, urine and sputum cultures
   - sputum cx
   - Trend WBC count and fever curve
   - low threshold for abdominal CT
   - will not correct INR for now or perform LP
   - low-dose vitamin K to bring INR < 3 so PICC can be placed.
   # Hypoxic Respiratory Failure:  Appears tachypnic currently with
   suctioning of tan secretions from ETT in a.m. of [**2142-6-15**].  Follow-up
   CXR shows volume overload.
   - lasix for diuresis
   - I/O goal of -1L
   - weane O2 on  trach collar
   # Altered mental status:  Unclear what patient's baseline is but per
   report she is alert and oriented x 3 normally.  AMS likely secondary to
   infectious process/toxic-metabolic.  Would also consider other
   metabolic causes of AMS.  Head CT negative and defering LP as described
   above.  TSH and B12 wnl, RPR neg
   - infectious disease management as above
   # Transaminitis:  No prior history of elevated LFTs or alcohol abuse.
   Elevated LFTs likely occured in setting of hypotension and shock liver,
   though would consider other etiologies such as toxic ingestion and
   infection if enzymes do not trend down.
   - trend LFTs
   - consider serum/urine tox if not improving
   # S/p laparotomy:  Stable, no abdominal pain, no active issues,
   discussed with surgery.
   # Atrial fibrillation:  Previously on metoprolol but started on digoxin
   during [**Month (only) 230**]-[**2142-5-25**] hospitalization after cardiology consultation.
   Digoxin level normal at 1.7.  Ventricular rate in high 90s.  Restarted
   metoprolol on [**2142-6-14**].
   - cont digoxin, metoprolol
   - holding warfarin for now in setting of INR > 3.0, antibiotics, but
   will need for stroke risk and MVR
   - daily coags
   # Mitral valve replacement:  Mechanical valve per report and history of
   rheumatic heart disease.
   - daily INR
   - restart warfarin once INR<3
   # FEN: IVF prn, replete electrolytes, regular diet
   # Prophylaxis: warfarin once INR<3
   # Access: peripherals
   # Code: presumed full
   # Communication: Patient, family. [**Doctor First Name **] is son [**Telephone/Fax (1) 6114**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-6-15**] 03:15 PM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-6-14**] 04:41 AM
   PICC Line - [**2142-6-15**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-06-18 09:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   - appears more dyspneic today
   -was not on nocturnal vent last two nights
   History obtained from Patient (limited), Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2142-6-15**] 01:00 PM
   Vancomycin - [**2142-6-16**] 12:30 PM
   Ceftazidime - [**2142-6-17**] 02:00 PM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-18**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 92 (74 - 107) bpm
   BP: 101/56(67) {93/42(54) - 121/70(80)} mmHg
   RR: 29 (22 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  1,800 mL
                                                                    701 mL
   PO:
             TF:
                                                                    840 mL
                                                                    327 mL
   IVF:
                                                                    370 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                    635 mL
                                                                    310 mL
   Urine:
                                                                    635 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,165 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   256 K/uL
   135 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.7 mEq/L
   42 mg/dL
   114 mEq/L
   148 mEq/L
   28.9 %
   13.6 K/uL
        [image002.jpg]
                             [**2142-6-14**]  06:30 AM
                             [**2142-6-14**]  02:28 PM
                             [**2142-6-14**]  06:15 PM
                             [**2142-6-15**]  03:16 AM
                             [**2142-6-15**]  06:32 AM
                             [**2142-6-15**]  04:21 PM
                             [**2142-6-15**]  07:54 PM
                             [**2142-6-16**]  03:00 AM
                             [**2142-6-17**]  03:39 AM
                             [**2142-6-18**]  03:32 AM
   WBC
   6.2
   9.6
   10.1
   7.5
   11.2
   13.6
   Hct
   22.6
   28.8
   29.3
   28.8
   25.0
   28.8
   28.9
   Plt
   [**Telephone/Fax (3) 6178**]
   Cr
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.9
   TCO2
   27
   28
   Glucose
   121
   121
   161
   122
   130
   144
   135
   Other labs: PT / PTT / INR:17.9/27.8/1.6, ALT / AST:52/45, Alk Phos / T
   Bili:308/0.5, Differential-Neuts:86.6 %, Band:0.0 %, Lymph:6.4 %,
   Mono:5.7 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL,
   LDH:222 IU/L, Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   85F w/ rCHF, pHTN, atrial fib, rheumatic heart disease s/p mechanical
   MVR, severe TR, HTN with resolved sepsis presumed secondary to PNA.
   Awaiting placement in rehab.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   -more dyspneic today
   -7L+ LOS, CXR looks a little more wet.
   -diurese, goal 500cc to 1L negative
   -check ABG, suspect may be retaining more CO2
   -needs to cont receiving noc ventilation
 PNEUMONIA
   -On vanc/ceftaz empirically for presumed HAP
 SEPSIS
   -hemodyn stable/resolved
   -felt secondary to PNA
 ATRIAL FIBRILLATION (AFIB)
   -Dig, lopressor
   -coumadin
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -Has been very alert, interactive this weekend.  A little less so today
   though appears dyspneic with more WOB.  Nods head to questions.  Head T
   neg.
 Mitral valve replacement:  Mechanical valve for RHD
   -anticoagulate
 Transaminitis:  Thought sec to shock liver, trending down since
   admission
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-6-18**] 08:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-6-14**] 04:41 AM
   PICC Line - [**2142-6-15**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2142-06-19 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mrs. [**Last Name (STitle) **] is an  85 year-old female with CHF (right
   sided), pulmonary HTN, atrial fib, rheumatic heart disease s/p
   mechanical MVR, severe TR, HTN, who presents with AMS and question
   sepsis.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2142-6-18**] 09:56 AM
 INVASIVE VENTILATION - STOP [**2142-6-18**] 04:00 PM
   [**6-17**]
   - Being screened for [**Hospital1 **]
   - Continuing to be tachypneic
   [**6-8**]
   - Dropped vanco level to 750 Q12H given trough of 25.
   - Placed on PSV yesterday AM stopped in PM. Placed on PSV for comfort
   overnight ([**10-29**])
   - INR subtherapeutic. Started on heparin gtt for MVR.
   - [**Doctor First Name **] received sympathy ID approval for vanco from [**First Name8 (NamePattern2) 1222**] [**Last Name (NamePattern1) 5446**].
   - Lasix gtt stopped [**2-26**] hypotension.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-6-18**] 08:00 PM
   Ceftazidime - [**2142-6-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-19**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.8
C (96.5
   HR: 76 (74 - 109) bpm
   BP: 92/46(58) {78/39(49) - 110/70(85)} mmHg
   RR: 24 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,196 mL
                                                                    683 mL
   PO:
             TF:
                                                                    840 mL
                                                                    256 mL
   IVF:
                                                                    576 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    210 mL
   Urine:
                                                                    660 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,536 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 237 (185 - 237) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 115
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.33/54/317/26/1
   Ve: 5.5 L/min
   PaO2 / FiO2: 793
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   8.0 g/dL
   122 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.2 mEq/L
   45 mg/dL
   113 mEq/L
   145 mEq/L
   25.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2142-6-15**]  03:16 AM
                             [**2142-6-15**]  06:32 AM
                             [**2142-6-15**]  04:21 PM
                             [**2142-6-15**]  07:54 PM
                             [**2142-6-16**]  03:00 AM
                             [**2142-6-17**]  03:39 AM
                             [**2142-6-18**]  03:32 AM
                             [**2142-6-18**]  03:24 PM
                             [**2142-6-18**]  05:15 PM
                             [**2142-6-19**]  04:01 AM
   WBC
   10.1
   7.5
   11.2
   13.6
   10.7
   Hct
   28.8
   25.0
   28.8
   28.9
   25.4
   Plt
   265
   204
   269
   256
   214
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   0.9
   TCO2
   27
   28
   30
   Glucose
   161
   122
   130
   144
   135
   123
   122
   Other labs: PT / PTT / INR:22.5/77.3/2.2, ALT / AST:52/45, Alk Phos / T
   Bili:308/0.5, Differential-Neuts:86.6 %, Band:0.0 %, Lymph:6.4 %,
   Mono:5.7 %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.7 g/dL,
   LDH:222 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Mrs. [**Last Name (STitle) **] is an  85 year-old female with CHF (right sided), pulmonary
   HTN, atrial fib, rheumatic heart disease s/p mechanical MVR, severe TR,
   HTN, who presents with AMS and question sepsis.
   # Pneumonia/sepsis:  At time of admission, met SIRS criteria with fever
   and tachycardia with pneumonia as infectious source.  Also considered
   abdominal process given recent surgery but no abdominal pain.  Chest CT
   suggests diffuse infiltrates and currently being covered with
   broad-spectrum antibiotics for healthcare-associated pneumonia.
   - Cont vanc/ceftaz (day [**6-2**]) for 7 day course
   # Hypoxic Respiratory Failure:  S/p trach after failing extubation
   during prior admission for small bowel obstruction.  Was volume
   overloaded during hospitalization after receiving IVFs but diuresed
   with good effect, now appears euvolemic.  Pneumonia contributing to
   respiratory failure.  TBB LOS >6L.  On mechanical ventilation as needed
   for resting.
   - lasix boluses prn
   # Altered mental status:  Unclear what patient's baseline is but per
   report she is alert and oriented x 3.  AMS likely secondary to
   infectious process, toxic-metabolic, or hypoxia/increased WOB.  Would
   also consider other metabolic causes of AMS.  Head CT negative.  TSH
   and B12 wnl, RPR neg.  Mental status now improved with treatment of
   pneumonia.
   - infectious disease management as above
   # Transaminitis:  No prior history of elevated LFTs or alcohol abuse.
   Elevated LFTs likely occured in setting of hypotension and shock liver,
   trending down since admission.
   - trend LFTs
   # S/p laparotomy:  Stable, no abdominal pain, no active issues,
   discussed with surgery.
   # Atrial fibrillation:  Previously on metoprolol but started on digoxin
   during [**Month (only) 230**]-[**2142-5-25**] hospitalization after cardiology consultation.
   Digoxin level normal at 1.7.  Ventricular rate in high 90s.  Restarted
   metoprolol on [**2142-6-14**].
   - Continue digoxin, metoprolol with goal HR 80-100
   - Coumadin held in setting of INR > 3.0 with antibiotics, restarted on
   [**2142-6-16**]. Goal INR [**2-27**].
   # Mitral valve replacement:  Mechanical valve per report and history of
   rheumatic heart disease.
   - Daily INR, coumadin as above.
   FEN: TF, replete as necessary
   PPx: Heparin SQ
   Access: PICC, PEG
   Communication: Patient, family. [**Doctor First Name **] is son [**Telephone/Fax (1) 6114**]
   Code: Full
   Dispo: Screen for rehab.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2142-6-18**] 08:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2142-6-15**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: